US04696763
A suspension of 20 parts 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic acid and 200 parts acetic anhydride is heated at 55° during 1.5 hours. The resulting yellow solution is cooled, poured onto 1000 parts ice-water, stirred until solid to give 3-(benzothiazol-2-ylthio)propane-1,2-dicarboxylic anhydride m.p. 87°-88°.

reactant | 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylic acid | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)O)C(=O)O | C12H11NO4S2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(benzothiazol-2-ylthio)propane-1,2-dicarboxylic anhydride | S1C(=NC2=C1C=CC=C2)SCC2CC(=O)OC2=O | C12H9NO3S2
